US07598264B2
Step 13: N-[6-(4-fluorobenzyl)-3,4-dihydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridin-1-yl]-N-methylmethanesulfonamide
To a solution of N-[6-(4-fluorobenzyl)-3-hydroxy-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridin-1-yl]-N-methylmethanesulfonamide (0.0207 g, 0.506 mmol) in CH2Cl2 (6 mL) was added 30% by weight HBr in propionic acid (0.196 g HBr, 2.42 mmol). Alternatively, 30% HBr in acetic acid can be used. After 1.5 hours, the product mixture was evaporated and the residue partitioned between CHCl3 and 10% KHSO4. The organic extract was dried with Na2SO4, filtered, and concentrated under vacuum. The residual material was purified using reverse phase HPLC eluting with 5%-95% acetonitrile (0.1% TFA) in H2O (0.1% TFA) to afford the title compound.

reactant | N-[6-(4-fluorobenzyl)-3-hydroxy-4-methoxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridin-1-yl]-N-methylmethanesulfonamide | 0.506 mmol, 0.0207 g | FC1=CC=C(CN2C(C=3C(=C(N=C(C3CC2)N(S(=O)(=O)C)C)O)OC)=O)C=C1 | C18H20FN3O5S
reactant | HBr | Br | BrH
reactant | propionic acid | 2.42 mmol, 0.196 g | C(CC)(=O)O | C3H6O2
solvent | CH2Cl2 | 6 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-[6-(4-fluorobenzyl)-3,4-dihydroxy-5-oxo-5,6,7,8-tetrahydro-2,6-naphthyridin-1-yl]-N-methylmethanesulfonamide | FC1=CC=C(CN2C(C=3C(=C(N=C(C3CC2)N(S(=O)(=O)C)C)O)O)=O)C=C1 | C17H18FN3O5S
